US08431563B2
1,1,1,3,3,3-hexafluoro-2-(4-(1-piperazinyl)phenyl)-2-propanol (150 mg, 0.457 mmol, published PCT patent application no. WO 2006/094842) was suspended in 20 mL of CH2Cl2. To this was added 2-thiazolesulfonyl chloride (84 mg, 0.457 mmol, Bioorg. Med. Chem., 2006, 14, 6628) and Hünig's base (0.2 mL). After stirring for 20 min at room temperature, the reaction was concentrated and then re-dissolved in methanol (3 mL). The crude material was purified by reverse-phase preparative HPLC (Phenomenex Gemini C18 column (150×30 mm, 10 μm), eluting with a 0.1% TFA in CH3CN/H2O, gradient (0% to 100% over 20 min)) to afford 1,1,1,3,3,3-hexafluoro-2-(4-(4-(1,3-thiazol-2-ylsulfonyl)-1-piperazinyl)phenyl)-2-propanol trifluoroacetate (36 mg) as a white powder. 1H NMR (300 MHz, CD3OD) δ 8.09 (d, J=3.1 Hz, 1H), 8.01 (d, J=3.1 Hz, 1H), 7.58 (d, J=8.5 Hz, 2H), 7.03 (d, J=8.9 Hz, 2H), 3.44 (m, 4H), 3.35 (m, 4H). m/z (ESI, +ve ion) 476.0 (M+H)+. GK-GKRP EC50 (NADPH-coupled)=0.664 μM; GK-GKRP EC50 (LC MS/MS)=0.842 μM.

reactant | 1,1,1,3,3,3-hexafluoro-2-(4-(1-piperazinyl)phenyl)-2-propanol | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)N1CCNCC1)(F)F | C13H14F6N2O
reactant | 2-thiazolesulfonyl chloride | 0.457 mmol, 84 mg | S1C(=NC=C1)S(=O)(=O)Cl | C3H2ClNO2S2
reactant | Hünig's base | 0.2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 1,1,1,3,3,3-hexafluoro-2-(4-(4-(1,3-thiazol-2-ylsulfonyl)-1-piperazinyl)phenyl)-2-propanol trifluoroacetate | 36 mg | FC(C(=O)O)(F)F.FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C=1SC=CN1)(F)F | InChI=1S/C16H15F6N3O3S2.C2HF3O2/c17-15(18,19)14(26,16(20,21)22)11-1-3-12(4-2-11)24-6-8-25(9-7-24)30(27,28)13-23-5-10-29-13;3-2(4,5)1(6)7/h1-5,10,26H,6-9H2;(H,6,7)
